US08183246B2
(2R)-2-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propan-1-ol
Production of the compounds listed in the following table is analogous to the synthesis described above. It starts correspondingly from 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]-pyrimidine or from 4-chloro-5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidine and uses (2S)-propane-1,2-diol or (2R)-propane-1,2-diol respectively:

reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]-pyrimidine | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | 4-chloro-5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)CC)C2=CC=CC=C2 | C20H15ClN2O
reactant | (2S)-propane-1,2-diol | C([C@H](C)O)O | C3H8O2
reactant | (2R)-propane-1,2-diol | C([C@@H](C)O)O | C3H8O2
product | (2R)-2-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propan-1-ol | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)O[C@@H](CO)C)C2=CC=CC=C2 | C22H20N2O4
